US06528525B1
(a) Methyl 3-nitropyridine-6-ylbenzoate
In a similar manner to that described in Reference example 14(a), a reaction was carried out using 4-methoxycarbonylphenyl boronic acid (3.24 g), 2-bromo-5-nitropyridine (4.75 g) and tetrakis(triphenylphosphine)palladium (1.04 g) and treated to afford the desired compound (3.67 g) as colorless crystals.

reactant | 4-methoxycarbonylphenyl boronic acid | 3.24 g | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | 2-bromo-5-nitropyridine | 4.75 g | BrC1=NC=C(C=C1)[N+](=O)[O-] | C5H3BrN2O2
catalyst | tetrakis(triphenylphosphine)palladium | 1.04 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 3-nitropyridine-6-ylbenzoate | 3.67 g | [N+](=O)([O-])C=1C=NC(=CC1)C1=C(C(=O)OC)C=CC=C1 | C13H10N2O4
